US04652679
2.58 g of 5-[3-[[(R)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxamide were treated portionwise in 129 ml of tetrahydrofuran under argon with 1.29 g of lithium aluminium hydride and the mixture was boiled at reflux for 3.25 hours. Then, while cooling, there were cautiously added 34 ml of 2N sodium hydroxide solution and subsequently 400 ml of water and the mixture was extracted three times with chloroform. The chloroform solutions were washed neutral with water and dilute sodium chloride solution, dried and evaporated in vacuo. Chromatography on silica gel with methanol and 0.5% concentrated ammonia and crystallization from acetonitrile/ether gave 914 mg of (R)-α-[[[3-[5-(aminomethyl)-2-thienyl]propyl]amino]methyl]benzyl alcohol of melting point 64°-65°. [α]D =-18° (c=0.1% in dioxane); UV: ε240 =9080.

reactant | 5-[3-[[(R)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxamide | 2.58 g | O[C@@H](CNCCCC1=CC=C(S1)C(=O)N)C1=CC=CC=C1 | C16H20N2O2S
reactant | lithium aluminium hydride | 1.29 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2N, 34 ml | [OH-].[Na+]
reactant | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 129 ml | O1CCCC1 | C4H8O
product | (R)-α-[[[3-[5-(aminomethyl)-2-thienyl]propyl]amino]methyl]benzyl alcohol | 914 mg | NCC1=CC=C(S1)CCCNC[C@@H](C1=CC=CC=C1)O | C16H22N2OS
